US08124606B2
Compound 66: 3-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one
3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (100 mg, 0.43 mmol) was suspended in propionitrile (1 mL) and (cyanomethyl)trimethylphosphonium iodide (103 mg, 0.41 mmol) was added followed by N-ethyl-N-isopropylpropan-2-amine (180 ul, 1.03 mmol). To the stirred mixture was then added 1-(4-chlorophenyl)piperazine hydrochloride (94.0 mg, 0.41 mmol). The reaction was heated to 90° C. with stirring for 2 h. The reaction was then cooled to room temperature and diluted with water (3 mL) and filtered. The solids were collected and refluxed in ethanol (5 mL) for 1 h. The suspension was cooled back to room temperature and filtered. The solids were collected to afford the title compound (69.9 mg, 39%) as a white solid. 1H NMR (DMSO-d6) δ (ppm): 10.47 (s, 1H), 7.65 (d, J=1.8 Hz, 1H), 7.21 (d, J=9.1 Hz, 2H), 6.97 (d, J=1.8 Hz, 1H), 6.92 (d, J=9.1 Hz, 2H), 4.50 (d, J=12.9 Hz, 1H), 3.83 (dd, J=11.2, 2.7 Hz, 1H), 3.34 (d, J=5.6 Hz, 2H), 3.01-3.17 (m, 4H), 2.55-2.65 (m, 1H), 2.37-2.48 (m, 4H), 1.98-2.08 (m, 1H), 1.85 (d, J=12.4 Hz, 1H), 1.63 (d, J=12.6 Hz, 1H), 1.32-1.56 (m, 3H). [M+H] calc'd for C22H26ClN5O, 412. found, 412.

reactant | 3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 0.43 mmol, 100 mg | OCC1=CC=2NC(C3N(C2N=C1)CCCC3)=O | C12H15N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.41 mmol, 103 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.03 mmol, 180 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-(4-chlorophenyl)piperazine hydrochloride | 0.41 mmol, 94.0 mg | Cl.ClC1=CC=C(C=C1)N1CCNCC1
solvent | propionitrile | 1 mL | C(CC)#N | C3H5N
solvent | water | 3 mL | O | H2O
product | 3-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 69.9 mg, 39% | ClC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC(C3N(C2N=C1)CCCC3)=O | C22H26ClN5O
